US06258829B1
Ethyl 2-methyl-4-nitro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide
Fuming nitric acid (27.0 ml) was added dropwise to ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide (3.10 g, 12.4 mmol) at 0° C., and the mixture was stirred at 90° C. for 2 hours. After cooling, the reaction solution was poured into ice water, mixed with 2 N sodium hydroxide aqueous solution and extracted with chloroform, and the thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. After evaporation of the solvent under reduced pressure, the resulting residue was purified by a silica gel column chromatography (chloroform:methanol=40:1) to obtain the title compound (3.38 g, 92.4%) as pale yellow powder.

reactant | nitric acid | 27.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | ethyl 2-methyl-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide | 12.4 mmol, 3.10 g | CC1=C(C=C2C(=[N+]1[O-])CCCCC2)C(=O)OCC | C14H19NO3
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
product | Ethyl 2-methyl-4-nitro-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate N-oxide | 3.38 g, 92.4% | CC1=C(C(=C2C(=[N+]1[O-])CCCCC2)[N+](=O)[O-])C(=O)OCC | C14H18N2O5
